US07960377B2
To a solution of methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (1.52 g, 7.83 mmol), in DCM (20 mL) was added TEA (2.18 mL, 15.65 mmol), di-tert-butyl dicarbonate (Boc2O) (8.54 g, 15.65 mmol) and DMAP (1.43 g, 11.74 mmol) to provide a pale yellow solution. The reaction mixture was stirred at 40° C. for 18 hours. The reaction was quenched by the addition of brine (5 mL). The phases were separated and the aqueous layer was extracted with DCM (2×5 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting paste was purified by flash column chromatography using a gradient elution of hexanes with 0-100% EtOAc to provide 1-tert-butyl 7-methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-1,7-dicarboxylate (1.25 g, 4.25 mmol, 54% yield). LCMS (+ESI) m/z=295.1 [M+H]+.

reactant | methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 7.83 mmol, 1.52 g | N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C9H10N2O3
reactant | di-tert-butyl dicarbonate | 15.65 mmol, 8.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 11.74 mmol, 1.43 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-butyl 7-methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-1,7-dicarboxylate | 4.25 mmol, 1.25 g, 54% yield | N1(C2=C(OCC1)N=CC(=C2)C(=O)OC)C(=O)OC(C)(C)C | C14H18N2O5
